US05672724
1.2 Synthesis of N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine
Combine 2-nitromethylene-thiazolidine (10.0 g) and isopropanol (40 mL). Add methylamine (14.7 g). Heat to 40° C. After 5 minutes, add 5-[(dimethylamino)methyl]-2-(chloromethyl)-furan hydrochloride (13.05 g) portionwise over 1.5 hours. After 3 hours, cool to ambient temperature. Add aqueous sodium hydroxide solution (11.6 g, 50% by weight) and water (20 g). Extract repeatedly with methyl isobutyl ketone. Combine the organic layers and evaporate in vacuo to give the title compound.

reactant | 2-nitromethylene-thiazolidine | 10.0 g | [N+](=O)([O-])C=C1SCCN1 | C4H6N2O2S
reactant | methylamine | 14.7 g | CN | CH5N
reactant | 5-[(dimethylamino)methyl]-2-(chloromethyl)-furan hydrochloride | 13.05 g | Cl.CN(C)CC1=CC=C(O1)CCl
reactant | sodium hydroxide | 11.6 g | [OH-].[Na+]
solvent | water | 20 g | O | H2O
solvent | isopropanol | 40 mL | C(C)(C)O | C3H8O
product | N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine | CN(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NC | C13H22N4O3S
